US09168245B2
Synthesis of intermediate V-c: 3-Bromo-2-methoxy-4-methyl-pyridine
A solution of 3-bromo-4-methyl-2-pyridone V-b (2.20 g, 11.7 mmol), in DCM (80 mL) was treated with MeI (7.29 mL, 117 mmol) and Ag2CO3 (6.47 g, 23.5 mmol). The flask was stoppered and stirred under argon for 6 days. The mixture was filtered and purified by column chromatography (SiO2, 10% EtOAc in cyclohexane) to afford the desired product V-c as a clear mobile oil (1.83 g, 80%). 1H NMR (300 MHz, CDCl3) δ 7.94 (d, J=5.0 Hz, 1H), 6.77 (d, J=5.1 Hz, 1H), 4.00 (s, 3H), 2.39 (s, 3H).

reactant | 3-bromo-4-methyl-2-pyridone | BrC=1C(NC=CC1C)=O | C6H6BrNO
reactant | MeI | 117 mmol, 7.29 mL | CI | CH3I
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-2-methoxy-4-methyl-pyridine | BrC=1C(=NC=CC1C)OC | C7H8BrNO
